US08183381B2
Step 1: 8-(5-(trifluoromethyl)pyrimidin-2-yl)-8-azabicyclo[3.2.1]octan-3-one
The title compound was synthesized from 2-(methylsulfonyl)-5-(trifluoromethyl)pyrimidine and 8-azabicyclo[3.2.1]octan-3-one in a manner similar to that described in Example 9.

reactant | 2-(methylsulfonyl)-5-(trifluoromethyl)pyrimidine | CS(=O)(=O)C1=NC=C(C=N1)C(F)(F)F | C6H5F3N2O2S
reactant | 8-azabicyclo[3.2.1]octan-3-one | C12CC(CC(CC1)N2)=O | C7H11NO
product | 8-(5-(trifluoromethyl)pyrimidin-2-yl)-8-azabicyclo[3.2.1]octan-3-one | FC(C=1C=NC(=NC1)N1C2CC(CC1CC2)=O)(F)F | C12H12F3N3O
